US06916806B2
To a solution of 2-(2-isopropylphenyl)imino-5,5-dimethyl-1,3-thiazine (0.26 g), carbondisulfide (0.10 g) in N,N-dimethylformamide (3 ml) was added 60% sodium hydride (0.05 g) under ice-cooling. The reaction mixture was stirred for 30 minutes. Allylchloride (0.10 g) was added thereto. The reaction mixture was stirred at 0° C. for 1 h. To a reaction mixture was added water (80 ml), extracted with diethylether (100 ml), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate) to give 2-(2-isopropylphenyl)imino-3-(allylthio)thiocarbonyl-5,5-dimethyl-1,3-thiazine (0.26 g, yield: 69%) as a pale yellow oil.

reactant | 2-(2-isopropylphenyl)imino-5,5-dimethyl-1,3-thiazine | 0.26 g | C(C)(C)C1=C(C=CC=C1)N=C1SCC(C=N1)(C)C | C15H20N2S
reactant | carbondisulfide | 0.10 g | C(=S)=S | CS2
reactant | sodium hydride | 0.05 g | [H-].[Na+]
reactant | Allylchloride | 0.10 g | C(C=C)Cl | C3H5Cl
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | water | 80 ml | O | H2O
product | 2-(2-isopropylphenyl)imino-3-(allylthio)thiocarbonyl-5,5-dimethyl-1,3-thiazine | 0.26 g, yield: 69% | C(C)(C)C1=C(C=CC=C1)N=C1SCC(CN1C(=S)SCC=C)(C)C | C19H26N2S3
